US05324449
10.0 g of dicyclohexylcarbodiimide in 20 ml of toluene are added with water cooling to a mixture of 9.1 g of 4-trifluoromethoxybenzoic acid, 6.0 g of 4-propylphenol, 2.7 g of dimethylaminopyridine and 30 ml of toluene. The mixture is stirred for 2 hours, 1 g of oxalic acid is added, and the mixture is stirred for a further hour and filtered with suction. The filtrate is washed by shaking with 1M HCl, the phases are separated, and the organic phase is washed by shaking with 1M NaOH and worked up. After purification by chromatography and/or crystallization, 4-propylphenyl 4-(trifluoromethoxy)-benzoate having C 59° I is obtained.

reactant | dicyclohexylcarbodiimide | 10.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-trifluoromethoxybenzoic acid | 9.1 g | FC(OC1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O3
reactant | 4-propylphenol | 6.0 g | C(CC)C1=CC=C(C=C1)O | C9H12O
reactant | dimethylaminopyridine | 2.7 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | oxalic acid | 1 g | C(C(=O)O)(=O)O | C2H2O4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-propylphenyl 4-(trifluoromethoxy)-benzoate | FC(OC1=CC=C(C(=O)OC2=CC=C(C=C2)CCC)C=C1)(F)F | C17H15F3O3
